US08426448B2
Preparation 81: 2-(6-Trifluoromethyl-pyridin-2-yl)-propan-2-ol
Add 6-trifluoromethyl-pyridine-2-carboxylic acid methyl ester (80.0 g, 390 mmol) to a mixture of THF (240 mL) and tert-butylmethyl ether (400 mL). Add the solution slowly to a 3 M methylmagnesium chloride in THF (390 mL, 1.17 moles) and maintain 8° C. to 16° C. Cool the mixture to 0° C. and add a mixture of 5 M hydrochloric acid (257 mL, 1.29 moles) and water (200 mL). Separate the phases and concentrate the organic phase under reduced pressure. Add heptane (160 mL) and cool the mixture to 5° C. Collect the precipitate by vacuum filtration and rinse the solid with heptane (20 mL) followed by pentane (30 mL). Vacuum dry the solid to afford the title compound as a tan solid (72.3 g, 352 mmol, 90%). 1H NMR (400 MHz, DMSO d6) δ 8.04 (t, J=7.7 Hz, 1H), 7.94 (d, J=7.9 Hz, 1H), 7.69 (d, J=7.0 Hz, 1H), 5.40 (s, 1H), 1.43 (s, 6H). HRMS (ESI) m/z (M+H)+ calcd for C9H10F3NO: 206.0787, found 206.0787.

reactant | 6-trifluoromethyl-pyridine-2-carboxylic acid methyl ester | 390 mmol, 80.0 g | COC(=O)C1=NC(=CC=C1)C(F)(F)F | C8H6F3NO2
reactant | THF | 240 mL | C1CCOC1 | C4H8O
reactant | methylmagnesium chloride | 3 M | C[Mg]Cl
reactant | THF | 1.17 moles, 390 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1.29 moles, 5 M, 257 mL | Cl | ClH
reactant | tert-butylmethyl ether | 400 mL | C(C)(C)(C)OC | C5H12O
solvent | water | 200 mL | O | H2O
product | 2-(6-Trifluoromethyl-pyridin-2-yl)-propan-2-ol | 352 mmol, 72.3 g, 90% | FC(C1=CC=CC(=N1)C(C)(C)O)(F)F | C9H10F3NO
